Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
gait unsteadiness

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ yo man with a history of recent stroke 3 weeks
ago (seen at ___ who presents to the ED with worsening of his
residual dizziness and gait unsteadiness, and recurrence of his
right facial droop from his recent stroke. Today at 6:30 pm he
was taking a bath. He tried to stand up and felt faint. He
slipped on the soap and fell back to the tub and had difficulty
standing up. His dizziness felt worse than normal and he bumped
into walls. He also has some recurrence of numbness in his right
lower lip and his wife noted recurrence of asymmetric smile with
slight right facial droop. His whole body was tremulous and his
wife called ___.

Per the patient and his wife, three weeks ago he was seen at ___
with left sided vision problems, mild left sided weakness (found
on exam), slurred speech, and dizziness. He was diagnosed with a
stroke and discharged on aspirin. He is on a cardiac monitor to
assess for underlying afib as the etiology. He has had 
persistent
dizziness since the stroke.

He endorses having a sore throat and dysuria. He has chronic SOB
with exertion. He has numbness/tingling in both hands of unknown
chronicity but he thinks is from his diabetes. 
 
 
Review of Systems:
On ROS, the pt endorses residual left sided visual symptoms
(flashers, floaters, vision difficulty), ongoing dizziness,
dysuria x wks, patchy tingling, chronic dyspnea on exertion, 
gait
instability. He denies headache, focal weakness, recent fever or
chills.  Denies cough, chest pain.  Denies nausea, vomiting,
diarrhea, constipation or abdominal pain. 

 
Past Medical History:
CORONARY ARTERY DISEASE s/p CABG                                 


HYPERLIPIDEMIA                                                  
ANXIETY                                                         
CAROTID STENOSIS                                                
INSOMNIA                                                        
DIABETES TYPE II                                                
HYPERTENSION                                                    
STROKE            
 
Social History:
___
Family History:
- DM and CAD in the family

 
Physical Exam:
ADMISSION NEUROLOGIC EXAMINATION

___ Stroke Scale - Total [2]
1a. Level of Consciousness -0
1b. LOC Questions -1 (stated age as ___)
1c. LOC Commands -0
2. Best Gaze -0
3. Visual Fields -0
4. Facial Palsy -1 
5a. Motor arm, left -0
5b. Motor arm, right -0
6a. Motor leg, left -0
6b. Motor leg, right -0
7. Limb Ataxia -0
8. Sensory -0
9. Language -0
10. Dysarthria -0
11. Extinction and Neglect -0

 
-Mental Status: Alert, oriented. Has difficulty relating his
history and becomes anxious and perseverative. Unable to name 
his
age. Language is fluent with intact repetition and 
comprehension.
Normal prosody.  There were no paraphasic errors.  Pt. was able
to name both high and low frequency objects on the stroke card. 
Able to read.  Speech was not dysarthric.  Able to follow both
midline and appendicular commands. Difficulty describing cookie
jar picture: sees a blob that may be a person and a window, 
later
can pick out a person on a stool.  Able to name ___ backward.
There was no neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: Right pupil 3.5->2.5mm, left pupil 2.5->1.5mm. VFF to
confrontation with finger wiggling in each eye. 
III, IV, VI: EOMI without nystagmus.  Palpebral fissure smaller
in left eye.
V: Facial sensation intact to light touch in all distributions 
VII: Slower activation of right lower face (inconsistent).
VIII: Hearing intact to voice.
IX, X: Palate elevates symmetrically.
XI: full strength in trapezii bilaterally.
XII: Tongue protrudes in midline 
 
-Motor: No pronator drift bilaterally. Action tremor in all
extremities.  
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  ___   5   5    5     5   5
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   2    2     2     2    2
R   2    2     2     2    2
- Toes were downgoing on left, mute on right.

-Sensory: No deficits to light touch, pinprick. No extinction to
DSS.

-Coordination: No dysmetria on FNF or HKS bilaterally. No 
truncal
ataxia.

-Gait: Good initiation. Narrow-based, normal stride. Romberg
absent.
============
DISCHARGE NEUROLOGIC EXAMINAITON:

MS: Back to baseline w/o deficits.
CN: Mild decreased right lower face activation (inconsistent), 
anisocoria (left pupil 1mm smaller).

Exam otherwise unchanged.
 
Pertinent Results:
=====
LABS:
=====
___ 05:35AM BLOOD WBC-6.9 RBC-4.72 Hgb-13.3* Hct-40.3 
MCV-85 MCH-28.2 MCHC-33.0 RDW-13.2 RDWSD-40.7 Plt ___
___ 06:05AM BLOOD WBC-7.9 RBC-4.92 Hgb-13.9 Hct-41.7 MCV-85 
MCH-28.3 MCHC-33.3 RDW-13.3 RDWSD-40.8 Plt ___
___ 08:18PM BLOOD WBC-13.0* RBC-5.07 Hgb-14.4 Hct-42.7 
MCV-84 MCH-28.4 MCHC-33.7 RDW-13.2 RDWSD-40.1 Plt ___
___ 08:18PM BLOOD ___ PTT-30.3 ___
___ 05:35AM BLOOD Glucose-170* UreaN-16 Creat-1.0 Na-142 
K-3.8 Cl-101 HCO3-30 AnGap-15
___ 06:05AM BLOOD Glucose-106* UreaN-14 Creat-0.9 Na-143 
K-3.3 Cl-103 HCO3-26 AnGap-17
___ 08:29PM BLOOD Creat-1.1
___ 08:18PM BLOOD UreaN-15
___ 06:05AM BLOOD ALT-58* AST-36 LD(LDH)-161 AlkPhos-63 
TotBili-0.8
___ 05:35AM BLOOD Calcium-9.2 Phos-4.1 Mg-1.6
___ 06:05AM BLOOD Calcium-9.6 Phos-3.9 Mg-1.4* Cholest-151
___ 06:05AM BLOOD %HbA1c-7.9* eAG-180*
___ 06:05AM BLOOD Triglyc-195* HDL-34 CHOL/HD-4.4 
LDLcalc-78
___ 06:05AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:24PM BLOOD Glucose-133* Na-144 K-3.8 Cl-104 
calHCO3-22

========
IMAGING:
========

 
Brief Hospital Course:
___ is a ___ man with a history of CAD s/p CABG, HTN, DM, 
carotid stenosis, and a recent ischemic stroke 3 weeks ago (seen 
at ___ who presented to ___ ED with worsening of his residual 
dizziness, gait unsteadiness, facial asymmetry, and slurred 
speech. On exam he had mild facial and pupillary asymmetry and 
was mildly encephalopathic. 

All of his neurologic symptoms had been present prior to 
presentation. His labs were notable for WBC of 13k. A head CT 
showed no acute hemorrhage. The morning after admission his 
neurologic symptoms has returned to baseline. At the time of 
discharge his WBC was 6.9k. MRI was negative for new stroke, but 
confirmed old strokes. Carotid US showed open ICA's with <40% 
stenosis. Risk factors assessed and found with HbA1C 7.9, Chol 
151, Trig 195, LDL 78. No evidence of atrial fibrillation on 
telemetry. His SBPs were 100-130s during admission off of 
lisinopril and on half of metoprolol, pt discharged on 
lisinopril 2.5mg daily (down from 20mg daily) and Metoprolol 
succinate 25mg in morning and 50mg at night (down 50mg in the 
morning and 100mg at night)
 
TRANSITIONAL ISSUES:
- Will need optimization of diabetic therapy.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Acetaminophen 1000 mg PO Q6H:PRN pain 
3. Lisinopril 20 mg PO DAILY 
4. Clotrimazole 1 TROC PO TWICE A DAY FOR AT LEAST 2W 
5. Lorazepam 1 mg PO TID 
6. Metoprolol Succinate XL 50 mg PO TAKE 1 TABLET BY MOUTH EVERY 
MORNING AND 2 AT NIGHTIME 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. sitaGLIPtin 50 mg oral daily 
9. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
10. Omeprazole 20 mg PO DAILY 
11. Aspirin 325 mg PO DAILY 
12. TraZODone 50 mg PO QHS:PRN TAKE 1 OR 2 TABLETS BY MOUTH 
13. GlipiZIDE XL 10 mg PO DAILY 
14. Fluvoxamine Maleate 100 mg PO 2 TABLET(S) BY MOUTH AT 
BEDTIME 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN pain 
2. Aspirin 325 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Fluvoxamine Maleate 100 mg PO 2 TABLET(S) BY MOUTH AT BEDTIME 

5. Lorazepam 1 mg PO TID 
6. Omeprazole 20 mg PO DAILY 
7. Clotrimazole 1 TROC PO TWICE A DAY FOR AT LEAST 2W 
8. GlipiZIDE XL 10 mg PO DAILY 
9. MetFORMIN (Glucophage) 1000 mg PO BID 
10. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
11. sitaGLIPtin 50 mg oral daily 
12. TraZODone 50 mg PO QHS:PRN TAKE 1 OR 2 TABLETS BY MOUTH 
13. Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth DAILY Disp #*14 
Tablet Refills:*0
14. Metoprolol Succinate XL 75 mg PO DAILY 
Take 25mg in the morning and 50mg at night.  
RX *metoprolol succinate 25 mg 3 tablet(s) by mouth DAILY Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
PRIMARY DIAGNOSIS
Lightheadedness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

You were admitted with symptoms of dizziness and gait 
unsteadiness that were not from a new stroke. You had brain 
imaging that was showed your old strokes but did not show any 
new infarct. Your symptoms may have been blood pressure related 
as they occurred when you were taking a warm bath which dilates 
your blood vessels and drops your blood pressure. You had 
imaging of the vessels in your neck that did not show any 
significant narrowing of blood vessels. 
 
Your stroke risk factors were checked - Your HbA1C was too high. 
Your LDL was 78, Triglycerides 195, and you did not have any 
atrial fibrillation (arrhythmia) during this admission. You will 
need to follow up with your neurologist and PCP to address these 
risk factors. 

Your blood pressures was adequately controlled while you were in 
the hospital but you were not getting your lisinopril and you 
were getting around half your home metoprolol dose. Therefore we 
have given you prescriptions for decreased doses of both these 
drugs - Lisinopril 2.5mg tabs and Metoprolol Succinate 25mg 
tabs. You should take 1 tab of lisinopril daily. You should take 
25mg of Metoprolol Succinate in the morning and 50mg at night. 

Because of these changes above, it is very important that you 
follow up with your primary care provider for blood pressure 
check within one week to see if you can resume your prior doses 
of blood pressure medications. 
 
Please followup with Neurology and your primary care physician.  

 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___